US05028256
Process for the production of N-(3,4-dimethoxy-α-cyanobenzyl)-N-methyl-dichloroacetamide
A solution of 14.7 g of dichloroacetylchloride in 10 ml of toluene are added dropwise, while stirring at a temperature of -10° to 15° C. to another solution of 20.6 g of N-(3,4-dimethoxy-α-cyanobenzyl-N-methylamine (prepared according to J. Prakt. Chem. 285 (1961) p. 258) in 80 ml of toluene and 20 ml of water, in which was dissolved 4 g of solid NaOH. A solid reaction product precipitates, which is filtered and washed with water until the aqueous filtrate is neutral. The solid acid amide is dried under vacuum to yield 27.7 g of raw product melting at 102°. After treating it with charcoal and recrystallisation from ethanol one obtains 125 g of crystalline title product, melting at 111°-112°.

reactant | dichloroacetylchloride | 14.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 3,4-dimethoxy-α-cyanobenzyl-N-methylamine | COC=1C=C(C(C#N)NC)C=CC1OC | C11H14N2O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
solvent | NaOH | [OH-].[Na+]
product | N-(3,4-dimethoxy-α-cyanobenzyl)-N-methyl-dichloroacetamide | 125 g | COC=1C=C(C(C#N)N(C(C(Cl)Cl)=O)C)C=CC1OC | C13H14Cl2N2O3
